US06492403B1
155 mg (0.627 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 10 mL of reagent grade acetone. 2-Bromo-1-(4-chloro-3-methylphenyl)ethan-1-one (0.658 mmol; 163 mg) was added and the solution was allowed to reflux for 3 h. The solution was allowed to cool and the reaction mixture was concentrated and dissolved in 50 mL of CH2Cl2. The organic layer was washed with 50 mL of 1N HCl (aq.), dried over sodium sulfate and concentrated. The crude product was purified on a 1 mm silica plate eluting with 20% ethyl acetate/hexane to afford 168 mg (68% yield) of methyl 4-[4-(4-chloro-3-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.627 mmol, 155 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-Bromo-1-(4-chloro-3-methylphenyl)ethan-1-one | 0.658 mmol, 163 mg | BrCC(=O)C1=CC(=C(C=C1)Cl)C | C9H8BrClO
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(4-chloro-3-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 168 mg, 68% yield | ClC1=C(C=C(C=C1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC)C | C17H14ClNOS3
